US07851490B2
1-{1-[3-(5-Chloro-thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethylamine
A stirred suspension of 1-{1-[3-(5-chloro-thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethanol (1.0 g, 2.80 mmol) in a mixture anhydrous toluene (60 ml) and THF (10 ml) was cooled to 10° C. and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.5 ml, 3.36 mmol) and di-phenylphosphoryl azide (0.95 g, 3.36 mmol) were added, successively. Stirring was continued for 45 min at 10° C., whereafter the temperature was raised and the mixture was stirred at reflux for two days. The cooled mixture was concentrated in vacuo and the concentrate was partitioned between ethyl acetate and saturated, aqueous sodium carbonate. The organic extract was dried over magnesium sulphate, concentrated under reduced pressure and eluted through silica gel with a mixture of dichloro-methane, methanol and aqueous ammonia (9:1:0.1 v/v/v) to afford the desired product (0.75 g, 70%). LC-ESI-HRMS of [M+H]+ shows 355.079 Da. Calc. 355.07842 Da. dev. 1.6 ppm.

reactant | 1-{1-[3-(5-chloro-thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethanol | 2.80 mmol, 1.0 g | ClC1=CN=C(S1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)O | C18H14ClN3OS
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.36 mmol, 0.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | di-phenylphosphoryl azide | 3.36 mmol, 0.95 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-{1-[3-(5-Chloro-thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethylamine | 0.75 g, 70% | ClC1=CN=C(S1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N | C18H15ClN4S
